US07098212B2
2-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzylsulfamoyl)-propionic acid
To a solution of 2-(2-aminomethyl-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.05 g, 0.119 mmol) in tetrahydrofuran (1 ml) at −40° C. was added triethylamine (0.021 ml, 0.151 mmol), catalytic dimethylaminopyridine and finally a solution of 2-chlorosulfonyl-propionic acid ethyl ester (for preparation, see: Helv. Chim. Acta., (1997) 80, 671 and Bull. Soc. Chim. Fr. (1975), 807) (0.029 g, 0.145 mmol) in tetrahydrofuran (0.25 ml), added over 5 minutes. The reaction was allowed to warm to ambient temperature. After 23 hours the reaction was diluted with ethyl acetate and washed with pH 7 phosphate buffer (0.5 M). The organic layer was dried over magnesium sulfate, filtered and concentrated. The desired product was isolated via silica gel chromatography (0.047 g). This ester (0.07 mmol) was dissolved in 1:1 tetrahydrofuran:water (1 ml) and lithium hydroxide hydrate (5.8 mg, 0.138 mmol) was added. After 21 hours the reaction was concentrated and the title compound obtained after silica gel chromatography (0.039 g, LRMS: 556.1).

reactant | 2-(2-aminomethyl-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.119 mmol, 0.05 g | NCC1=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=CC(=C1)Cl | C22H27ClFN3O2
reactant | triethylamine | 0.151 mmol, 0.021 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2-chlorosulfonyl-propionic acid ethyl ester | 0.145 mmol, 0.029 g | C(C)OC(C(C)S(=O)(=O)Cl)=O | C5H9ClO4S
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzylsulfamoyl)-propionic acid | ClC=1C=CC(=C(CNS(=O)(=O)C(C(=O)O)C)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C25H31ClFN3O6S
